US05196454
5-Acetylamino-2-dimethylamino-tetraline-hydrochloride
Starting from 2.03 g (0.01 mol) of 5-acetylamino-2-tetralone and 2.45 g (0.03 mol) of dimethylaminehydrochloride the title compound is obtained analogously to Example 4.1.11 in a yield of 1.35 g (50.2% of theory) and with a melting point of 199° C. which does not change after recrystallisation from methanol/ether.

reactant | 5-acetylamino-2-tetralone | 0.01 mol, 2.03 g | C(C)(=O)NC1=C2CCC(CC2=CC=C1)=O | C12H13NO2
reactant | dimethylaminehydrochloride | 0.03 mol, 2.45 g | Cl.CNC
product | 5-Acetylamino-2-dimethylamino-tetraline-hydrochloride | Cl.C(C)(=O)NC1=C2CCC(CC2=CC=C1)N(C)C | InChI=1S/C14H20N2O.ClH/c1-10(17)15-14-6-4-5-11-9-12(16(2)3)7-8-13(11)14;/h4-6,12H,7-9H2,1-3H3,(H,15,17);1H
